### PR TITLE
fix(Paper/Homogenous): Problem 17 concerns monolithic, not ω-monolithic, spaces

### LINKED ISSUE #5699: Paper/Homogenous: `countablyMonolithicSpace_exists_nhds_generated_countable`: ω-monolithic, not monolithic
`Homogeneous.countablyMonolithicSpace_exists_nhds_generated_countable` assumes only `CountablyMonolithicSpace X`, that closures of countable subsets are metrizable, whereas Problem 17 in the source asks about monolithic compact spaces, where the closure of every subset of infinite cardinality κ has weight at most κ, so the Lean statement asks a stronger question under a weaker hypothesis.

https://tadamcz.com/fc-review-results/c90271f0fa/#/f/Paper/Homogenous

- 1 misformalization
- 1 minor
- 1 equivalent reformulation
- trivial proof: bailed out
- fix compiles

<sub>Found by a language-model audit of the repository at c90271f0fa. Not reviewed by a human. This issue's title and description were written by a language model as well.</sub>

### PR DESCRIPTION
**Pull request by smmercuri**
`Homogeneous.countablyMonolithicSpace_exists_nhds_generated_countable` (Problem 17 in Arhangel'skii's "Selected old open problems in general topology") assumed only `CountablyMonolithicSpace X`, i.e. that closures of countable subsets are metrizable. The source asks about *monolithic* compact spaces, where the closure of every subset of infinite cardinality κ has (network) weight at most κ. Since ω-monolithic is weaker than monolithic, the Lean statement asked a stronger question than the source.

**Change:**
- New `FormalConjecturesForMathlib/Topology/CardinalInvariants.lean` defining networks (`IsNetwork`), the *density* `density X` (least cardinality of a dense subset) and the *network weight* `networkWeight X` (least cardinality of a network), with basic lemmas (attainment, `d(X) ≤ ℵ₀ ↔ SeparableSpace X`, `nw(X) ≤ ℵ₀` for second countable `X`, monotonicity under inducing maps, `d = nw = #X` for discrete `X`).
- `MonolithicSpace X` in the paper file: for every infinite cardinal `κ`, every subspace of `X` with density `≤ κ` has network weight `≤ κ` ([Ar1987]'s definition). Problem 17 is restated under `MonolithicSpace X`, renamed `monolithicSpace_exists_nhds_generated_countable`. The module docstring, which described the file as being about "weakly first countable" spaces, is corrected.
- `category test` declarations: `monolithicSpace_iff_networkWeight_closure_le` (equivalence with the `nw(cl A) ≤ |A| + ω` formulation) and instances showing discrete and second countable spaces are monolithic.

**Checked:** `lake --wfail build FormalConjectures.Paper.Homogenous` (which rebuilds `FormalConjecturesForMathlib`) passes with no warnings.

Judgement call: monolithicity is defined via network weight (Arhangel'skii's general definition) rather than weight; the two agree for the compact Hausdorff spaces in Problem 17, so the formal statement is faithful.

Fixes #5699

### CODE REVIEW

**Comment by mo271** [comment]
@felixpernegger can you have a look here?

**Comment by smmercuri** [comment]
🤖 *This comment was written by an automated review agent (Claude, run by the PR author), not by a human.*

I compared this fix against issue #5699 and the audit's evidence/proposed fix at https://tadamcz.com/fc-review-results/c90271f0fa/#/f/Paper/Homogenous, and tried to break the new statement against the cited source. Verdict: **the fix is correct and fully addresses the misformalization, with one small change requested** (a missing reference).

Why it is the right fix:

- **The defect is gone.** Problem 17 was stated under `CountablyMonolithicSpace X` (ω-monolithic), strictly weaker than the source's monolithicity, so the Lean question was the stronger one. The new `MonolithicSpace` (a network of `closure s` of cardinality `≤ #s` for every infinite `s`) is Arhangel'skii's classical `nw(cl A) ≤ |A| + ω`, and `IsNetwork` is Engelking's network.
- **Equivalent to the audit's proposal.** The audit quantified over all `s` with bound `#N ≤ max #s ℵ₀`; I proved `PR ↔ audit` in Lean against this branch for an arbitrary topological space. The PR's form is cleaner (no `max`).
- **Faithful to the source.** [Ar2013] p. 43 asks whether "every nonempty monolithic compact space is first-countable at some point", right after using "ω-monolithic" explicitly for Problems 15–16, so the wording is deliberate; "compact" means compact Hausdorff (p. 38).
- **No junk values / no vacuity.** Finite spaces are vacuously monolithic (correctly: they are discrete) and satisfy the conclusion, so nothing trivialises; `answer(sorry)` still scopes over the whole `∀ X`. Metrizable compacta are monolithic while `βℕ` is not, so the question is genuinely open.
- **Every change is justified and it builds.** The module-doc fix, the two new definitions and the theorem rename are all needed, Problems 13–16 are correctly untouched, and no references to the old name remain. `lake --wfail build FormalConjectures.Paper.Homogenous` passes with no warnings.

Optional nits only (not blocking): `IsNetwork` (line 105) could live under `FormalConjecturesForMathlib/Topology/`; lowercase "hausdorff" is pre-existing style.

---

### Changes requested

1. `FormalConjectures/Paper/Homogenous.lean:26-28` — [Ar2013] uses "monolithic" without defining it, so `MonolithicSpace` has no source; add [Ar2013]'s own reference [10] (checked against Crossref) after the [Ar2013] entry:
   ```
   * [Ar1987] Arhangel'skii, A. V. "Topological homogeneity. Topological groups and their continuous
     images." Russian Mathematical Surveys 42.2 (1987): 83-131.
     https://doi.org/10.1070/RM1987v042n02ABEH001333
   ```
2. `FormalConjectures/Paper/Homogenous.lean:108` — cite it in the `MonolithicSpace` docstring, e.g.:
   ```
   /-- A topological space is called *monolithic* (see [Ar1987]; [Ar2013] uses the term without
   defining it) if for every infinite cardinal $\kappa$ and every subset $A$ with $|A| \le \kappa$,
   ```

**Comment by smmercuri** [comment]
🤖 *This comment was written by an automated agent (Claude, run by the PR author), not by a human.*

Applied the changes requested in https://github.com/google-deepmind/formal-conjectures/pull/5746#issuecomment-5654664342 in 1f362d6:
1. Added the [Ar1987] reference (Arhangel'skii, Russian Math. Surveys 42.2 (1987), DOI 10.1070/RM1987v042n02ABEH001333) after the [Ar2013] entry in the module docstring.
2. The `MonolithicSpace` docstring now cites it ("see [Ar1987]; [Ar2013] uses the term without defining it").

`lake --wfail build FormalConjectures.Paper.Homogenous` passes.

File: FormalConjectures/Paper/Homogenous.lean [hunk 1]
```diff
@@ -98,16 +101,35 @@ theorem countablyMonolithicSpace_card_lt :
...
+defining it) if for every infinite cardinal $\kappa$ and every subset $A$ with $|A| \le \kappa$,
+the closure of $A$ has network weight at most $\kappa$; that is, the closure of every infinite
+subset $A$ has a network of cardinality at most $|A|$.
+
+For compact Hausdorff spaces the network weight coincides with the weight, so a compact Hausdorff
+space is monolithic if and only if the closure of every infinite subset $A$ has weight at most
+$|A|$; in particular every monolithic compact Hausdorff space is ω-monolithic. -/
+class MonolithicSpace (X : Type*) [TopologicalSpace X] : Prop where
+  exists_isNetwork_closure_of_infinite :
+    ∀ ⦃s : Set X⦄, s.Infinite → ∃ N : Set (Set (closure s)), IsNetwork N ∧ #N ≤ #s
```
Comment (felixpernegger) [inline FormalConjectures/Paper/Homogenous.lean]: Thanks for this fix. I recall when i was formalising this I just though omega monolotihc and monolithic are the same oops.

`IsNetwork` should probably be in ForMathlib.

I am not sure if the definition of `MonolithicSpace` is mathematically accurate (though I trust Claude at this point...), but it is certainly not the "right" definition. One should first define density and net weight and then state the class using those (and `Density` should probably be in ForMathlib then).

**Review by felixpernegger — CHANGES_REQUESTED** [review]

File: FormalConjectures/Paper/Homogenous.lean (hunk 1 above)
Comment (felixpernegger) [reply FormalConjectures/Paper/Homogenous.lean]: Also the docstring for MonolithicSpace is *really* bloated

Comment (smmercuri) [reply FormalConjectures/Paper/Homogenous.lean]: > Also the docstring for MonolithicSpace is _really_ bloated

yes this tends to happen with Claude, will trim

Comment (smmercuri) [reply FormalConjectures/Paper/Homogenous.lean]: 🤖 *This comment was written by an automated agent (Claude, run by the PR author), not by a human.*

Done in 691a6c9b: `IsNetwork` now lives in `FormalConjecturesForMathlib/Topology/CardinalInvariants.lean` together with `density` and `networkWeight` (least cardinality of a dense set / of a network, as `⨅` over the subtype), and `MonolithicSpace` is stated with those: for every infinite `κ`, every subspace with `density ≤ κ` has `networkWeight ≤ κ`. As sanity checks, `monolithicSpace_iff_networkWeight_closure_le` proves this is equivalent to the `nw(cl A) ≤ |A| + ω` formulation used before, and discrete and second countable spaces are shown to be monolithic.

Comment (smmercuri) [reply FormalConjectures/Paper/Homogenous.lean]: 🤖 *This comment was written by an automated agent (Claude, run by the PR author), not by a human.*

Trimmed to three lines in 691a6c9b.

File: FormalConjectures/Paper/Homogenous.lean [hunk 2]
```diff
@@ -98,16 +101,58 @@ theorem countablyMonolithicSpace_card_lt :
       HomogeneousSpace X → CountablyMonolithicSpace X → #X ≤ 𝔠 := by
   sorry
 
+/-- A topological space `X` is *monolithic* (see [Ar1987]; [Ar2013] uses the term without
+defining it) if for every infinite cardinal `κ`, every subspace of `X` of density at most `κ` has
+network weight at most `κ`. -/
+class MonolithicSpace (X : Type*) [TopologicalSpace X] : Prop where
+  networkWeight_le_of_density_le :
+    ∀ ⦃κ : Cardinal⦄, ℵ₀ ≤ κ → ∀ ⦃Y : Set X⦄, density Y ≤ κ → networkWeight Y ≤ κ
```
Comment (felixpernegger) [inline FormalConjectures/Paper/Homogenous.lean]: This is overcomplicated for no reason

File: FormalConjecturesForMathlib/Topology/CardinalInvariants.lean [hunk 3]
```diff
@@ -0,0 +1,142 @@
...
+theorem IsNetwork.singleton_mem [DiscreteTopology X] {N : Set (Set X)} (hN : IsNetwork N)
+    (x : X) : {x} ∈ N := by
+  obtain ⟨n, hn, hx, hsub⟩ := hN (isOpen_discrete {x}) x rfl
+  rwa [subset_antisymm hsub (singleton_subset_iff.mpr hx)] at hn
+
+variable (X)
+
+/-- The *density* `d(X)` of a topological space `X` is the least cardinality of a dense subset. -/
+noncomputable def density : Cardinal :=
+  ⨅ s : {s : Set X // Dense s}, #s.1
```
Comment (felixpernegger) [inline FormalConjecturesForMathlib/Topology/CardinalInvariants.lean]: I dont think this is the correct / usual definition for density. It is assume to be infinite always afaik. You can compare it with my implementation in my pibase lean repo (in AdditionalDefs folder somewhere)

File: FormalConjecturesForMathlib/Topology/CardinalInvariants.lean [hunk 4]
```diff
@@ -0,0 +1,142 @@
...
+/-- The preimage of a network under an inducing map is a network. -/
+theorem IsNetwork.preimage {N : Set (Set Y)} (hN : IsNetwork N) {f : X → Y}
+    (hf : IsInducing f) : IsNetwork ((f ⁻¹' ·) '' N) := by
+  intro U hU x hx
+  obtain ⟨V, hV, rfl⟩ := hf.isOpen_iff.mp hU
+  obtain ⟨n, hn, hfx, hnV⟩ := hN hV (f x) hx
+  exact ⟨f ⁻¹' n, mem_image_of_mem _ hn, hfx, preimage_mono hnV⟩
+
+/-- Every network for a discrete space contains all singletons. -/
+theorem IsNetwork.singleton_mem [DiscreteTopology X] {N : Set (Set X)} (hN : IsNetwork N)
```
Comment (felixpernegger) [inline FormalConjecturesForMathlib/Topology/CardinalInvariants.lean]: The names are quite horrible. The theorem only argue about discrete topology, which is a very special (and uninteresting case)

**Review by felixpernegger — CHANGES_REQUESTED** [review]
I like the added  API very much, but:

FYI I think it would be a bit easier if you take a short look at the AI code before committing.

Claude / Codex are very good at Lean now, but still not perfect (as this PR is showing)

File: FormalConjecturesForMathlib/Topology/CardinalInvariants.lean (hunk 3 above)
Comment (smmercuri) [reply FormalConjecturesForMathlib/Topology/CardinalInvariants.lean]: adding aleph_0 to address, looking at the way it is done in `AdditionalDefs/Cardinal.lean`

File: FormalConjecturesForMathlib/Topology/CardinalInvariants.lean (hunk 4 above)
Comment (smmercuri) [reply FormalConjecturesForMathlib/Topology/CardinalInvariants.lean]: Yes, this is a result of asking for specific test cases to check its definition behaved as expected. Some have been deleted, but some discrete cases remain. I am happy to remove them/make them examples if you think they should not be there

File: FormalConjecturesForMathlib/Topology/CardinalInvariants.lean [hunk 5]
```diff
@@ -0,0 +1,150 @@
...
+  let ⟨_, hN, hN'⟩ := exists_isNetwork_mk_add_aleph0_eq_networkWeight (X := Y)
+  (hN.preimage hf).networkWeight_le.trans (hN' ▸ add_le_add_left mk_image_le _)
+
+theorem density_discrete [DiscreteTopology X] : density X = #X + ℵ₀ := by
+  refine le_antisymm (dense_univ.density_le.trans_eq (by rw [mk_univ]))
+    (le_density fun s hs => ?_)
+  obtain rfl := dense_discrete.mp hs
+  rw [mk_univ]
+
+theorem networkWeight_discrete [DiscreteTopology X] : networkWeight X = #X + ℵ₀ := by
```
Comment (felixpernegger) [inline FormalConjecturesForMathlib/Topology/CardinalInvariants.lean:139]: One of the inequalities always holds and should be a separate lemma (same at density_discrete)

**Review by felixpernegger — APPROVED** [review]
LGTM modulo small comments

**Review by mo271 — APPROVED** [review]
Thanks, LGTM!
